US08309580B2
3-{[4-(1-{2-methyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}-3-methylbutoxy)benzoyl](methyl)amino}propanoic acid
An operation similar to that in Example 1 (4) was performed using 4-(1-{2-methyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}-3-methylbutoxy)benzoic acid (99 mg) as well as ethyl 3-(methylamino)propanoate (37 mg) to give the title compound (103 mg, 87%) as an amorphous compound.

reactant | 4-(1-{2-methyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}-3-methylbutoxy)benzoic acid | 99 mg | CC=1OC(=CC1C(CC(C)C)OC1=CC=C(C(=O)O)C=C1)C1=CC=C(C=C1)C(F)(F)F | C24H23F3O4
reactant | ethyl 3-(methylamino)propanoate | 37 mg | CNCCC(=O)OCC | C6H13NO2
product | 3-{[4-(1-{2-methyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}-3-methylbutoxy)benzoyl](methyl)amino}propanoic acid | 103 mg, 87% | CC=1OC(=CC1C(CC(C)C)OC1=CC=C(C(=O)N(CCC(=O)O)C)C=C1)C1=CC=C(C=C1)C(F)(F)F | C28H30F3NO5
